US08022248B2
i) 4-(2-amino-5-chlorophenoxy)-3-chloro-benzonitrile
The subtitle compound was prepared by the method of example 3 step viii) using 2-amino-5-chlorophenol and 3-chloro-4-fluorobenzonitrile. Yield 2.70 g

reactant | 2-amino-5-chlorophenol | NC1=C(C=C(C=C1)Cl)O | C6H6ClNO
reactant | 3-chloro-4-fluorobenzonitrile | ClC=1C=C(C#N)C=CC1F | C7H3ClFN
product | 4-(2-amino-5-chlorophenoxy)-3-chloro-benzonitrile | NC1=C(OC2=C(C=C(C#N)C=C2)Cl)C=C(C=C1)Cl | C13H8Cl2N2O
